US06277861B1
7-Amino-1,1,2-trimethyl-1,2,3,4-tetrahydroisoquinoline
7-Amino-1,2-dimethyl-3,4-dihydroisoquinolinium iodide (1.44 g, 4.8 mmol) was suspended in THF (200 ml), cooled to −78° C. and treated with methyl magnesium chloride (10 ml of a 3M solution in THF) added as a single portion. The reaction was allowed to reach room temperature over 18 h and poured into water (200 ml). The organic solvent was removed in vacuo and the resultant oily residue extracted into dichloromethane (3×50 ml). Evaporation in vacuo and chromatography through silica gel eluting with (0.5% 0.88 NH3: 4.5% CH3OH: 95% CH2Cl2) yielded the title compound as a yellow oil (0.07 g, 8%). For ease of handling the product was converted into a monohydrochloride.

reactant | 7-Amino-1,2-dimethyl-3,4-dihydroisoquinolinium iodide | 4.8 mmol, 1.44 g | [I-].NC1=CC=C2CC[N+](=C(C2=C1)C)C
reactant | methyl magnesium chloride | C[Mg]Cl
reactant | water | 200 ml | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 7-Amino-1,1,2-trimethyl-1,2,3,4-tetrahydroisoquinoline | 0.07 g, 8% | NC1=CC=C2CCN(C(C2=C1)(C)C)C | C12H18N2
